US05504244
Adipic acid monomethyl ester (50 g; 0.31 mole) is converted to the acid chloride with thionyl chloride (50 g) by the manner described in Example 1. This product is reacted with hexylbenzene (100 g) and aluminum chloride (62.4 g; 0.47 mole) and the product isolated in a manner analogous to that described in Example 1. The crude product is heated under reflux in ethanol (234 ml) and 2N sodium hydroxide (234 ml) for 4 hours. The reaction mixture is then processed as described in Example 1. The product is recrystallized from aqueous ethanol to give 5-(4-n-hexylbenzoyl)pentanoic acid as colorless crystals (22.5 g), m.p. 77°-79° C.

reactant | Adipic acid monomethyl ester | 0.31 mole, 50 g | COC(CCCCC(=O)O)=O | C7H12O4
reactant | thionyl chloride | 50 g | S(=O)(Cl)Cl | Cl2OS
reactant | hexylbenzene | 100 g | C(CCCCC)C1=CC=CC=C1 | C12H18
reactant | aluminum chloride | 0.47 mole, 62.4 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | sodium hydroxide | 2N, 234 ml | [OH-].[Na+]
solvent | ethanol | 234 ml | C(C)O | C2H6O
product | 5-(4-n-hexylbenzoyl)pentanoic acid | 22.5 g | C(CCCCC)C1=CC=C(C(=O)CCCCC(=O)O)C=C1 | C18H26O3
